### PR TITLE
[Merged by Bors] - feat: port Data.Polynomial.Reverse

### PR DESCRIPTION
**Pull request by LukasMias**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Polynomial/Reverse.lean [hunk 1]
```diff
@@ -0,0 +1,391 @@
...
+
+@[simp]
+theorem reverse_eq_zero : f.reverse = 0 ↔ f = 0 := by simp [reverse]
+#align polynomial.reverse_eq_zero Polynomial.reverse_eq_zero
+
+theorem reverse_natDegree_le (f : R[X]) : f.reverse.natDegree ≤ f.natDegree := by
+  rw [natDegree_le_iff_degree_le, degree_le_iff_coeff_zero]
+  intro n hn
+  -- Porting note: Needed to add the below line for different coercion behaviour
+  have : ∀ n, Nat.cast n = WithBot.some n := fun _ ↦ rfl
```
Comment (jcommelin) [inline Mathlib/Data/Polynomial/Reverse.lean:276]: This is `Nat.cast_withBot`

**Review by jcommelin — COMMENTED** [review]
LGTM, modulo one remark

**Comment by jcommelin** [comment]
bors d+
